US08309562B2
{4-[Methyl-(2-methyl-quinazolin-4-yl)-amino]-phenoxy}-acetic acid methyl ester
(4-Hydroxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine (468 mg, 1.41 mmol) and K2CO3 were dissolved in DMF (10 mL). Methyl bromoacetate (0.67 mL, 7.08 mmol) was added and the reaction was heated at 60° C. for 2 h. The mixture was cooled and diluted with EtOAc. The organics were washed with water (2×) and dried over MgSO4. The title compound was purified by preparative RPLC. 1H NMR (DMSO-d6) δ 7.64 (d, 1H), 7.59 (t, 1H), 7.20 (d, 2H), 7.05 (t, 1H), 7.0-6.9 (m, 3H), 4.85 (s, 2H), 3.71 (s, 3H), 3.50 (s, 3H), 2.58 (s, 3H); LC-MS (ESI+; 338 ([M+H]+)).

reactant | (4-Hydroxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine | 1.41 mmol, 468 mg | OC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C16H15N3O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | Methyl bromoacetate | 7.08 mmol, 0.67 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {4-[Methyl-(2-methyl-quinazolin-4-yl)-amino]-phenoxy}-acetic acid methyl ester | COC(COC1=CC=C(C=C1)N(C1=NC(=NC2=CC=CC=C12)C)C)=O | C19H19N3O3
